Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vitamin B-12 / Nicotinic Acid Propyl ___
 
___.
 
Chief Complaint:
Weakness, dizziness, fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ w/ ___ Afib on amiodarone, 
HTN,
and HLD, who presents with generalized weakness and chest
discomfort.  

In the ED, her son was at the bedside translating and reported
that the patient's weakness began yesterday evening and is
associated with a "squeezing" discomfort in the ___ her
chest. She also endorses mild bilateral lower extremity 
swelling.
Patient denies fevers, chills, SOB, or N/V/D.

In the ED, initial vitals were: T 97.5, BP 157/79, HR 70, RR 18,
O2 100% RA. On exam, patient was noted to have flat neck veins,
clear lungs, regular cardiac exam, and no lower extremity edema. 


Initial labs were notable for trops negative x2 and were
otherwise unremarkable. A CXR was negative for acute
cardiopulmonary processes and initial ECG showed sinus rhythm
with bigeminy.

Upon arrival to the floor, patient reports that she has been
feeling extremely weak since last night. She reports feeling 
like
the "ground is going to give out from under" her and she feels
like she is spinning. The spinning sensation is worse with
ambulation and she thinks it is associated with times when her 
BP
is low (SBP ___. She denies syncope and endorses palpitations
during these episodes. She also endorses chest pressure that
began last night while at rest. She went for a walk to see if it
would resolve. The chest pressure lasted for ___ hours and then
resolved on it's own. This has occasionally happened in the 
past,
always at rest, and not with exertion. The patient also endorses
severe anxiety and feeling like she has to gasp for air. She
denies SOB, orthopnea, DOE, or PND. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Hyperlipidemia 
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Atrial fibrillation 
 
Social History:
___
Family History:
Mother (deceased) - asthma
Father - CVA
Sister - asthma, HTN, heart problems 
 
Physical Exam:
ADMISSION EXAM:
===============
VS: T 98.1 BP 138/75 HR 67 RR 17 O2 96% RA 
GENERAL: Well appearing woman, resting in bed comfortably in NAD
HEENT: NC/AT, EOMI, anicteric sclera, MMM
NECK: Supple, no JVD
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, breathing comfortably on RA without use of 
accessory
muscles, no wheezes/rales/rhonci  
ABDOMEN: Soft, non-tender, non-distended, active bowel sounds, 
no
organomegaly
EXTREMITIES: No cyanosis, clubbing, or edema  
SKIN: Warm and well perfused
PULSES: 2+ DPs bilaterally
NEURO: Alert, oriented, moving all extremities with purpose, no
facial asymmetry 

DISCHARGE EXAM:
===============
VS: T 98.4 BP 100/61 HR 64 RR 16 O2 96% RA 
GENERAL: Tired appearing woman, resting in bed comfortably in 
NAD
HEENT: NC/AT, EOMI, anicteric sclera, MMM
NECK: Supple, no JVD
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, breathing comfortably on RA without use of 
accessory
muscles, no wheezes/rales/rhonci  
ABDOMEN: Soft, non-tender, non-distended, active bowel sounds, 
no
organomegaly
EXTREMITIES: No cyanosis, clubbing, or edema  
SKIN: Warm and well perfused
PULSES: 2+ DPs bilaterally
NEURO: Alert, oriented, moving all extremities with purpose, no
facial asymmetry 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:00AM   PLT COUNT-241
___ 10:00AM   NEUTS-57.6 ___ MONOS-10.0 EOS-4.6 
BASOS-0.6 IM ___ AbsNeut-3.86 AbsLymp-1.82 AbsMono-0.67 
AbsEos-0.31 AbsBaso-0.04
___ 10:00AM   WBC-6.7 RBC-4.07 HGB-12.5 HCT-38.2 MCV-94 
MCH-30.7 MCHC-32.7 RDW-13.7 RDWSD-46.7*
___ 10:00AM   cTropnT-<0.01
___ 10:00AM   estGFR-Using this
___ 10:00AM   GLUCOSE-101* UREA N-16 CREAT-0.9 SODIUM-141 
POTASSIUM-6.6* CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 10:35AM URINE  RBC-0 WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 10:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 10:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:35AM URINE  UHOLD-HOLD
___ 10:35AM URINE  HOURS-RANDOM
___ 11:55AM   K+-3.8
___ 02:15PM   cTropnT-<0.01
___ 02:15PM   proBNP-352

DISCHARGE LABS:
================
___ 06:50AM BLOOD WBC-8.5 RBC-3.91 Hgb-12.1 Hct-37.4 MCV-96 
MCH-30.9 MCHC-32.4 RDW-13.9 RDWSD-48.9* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-90 UreaN-16 Creat-1.0 Na-144 
K-4.9 Cl-106 HCO3-26 AnGap-12

MICROBIOLOGY:
=============
___ Urine cx: Negative

IMAGING/DIAGNOSTICS:
====================
___ CXR:
IMPRESSION:  
No acute cardiopulmonary process. 

___ STRESS:
INTERPRETATION: This ___ year old woman with hypertension, atrial 

fibrillation, dyslipidemia presented to the exercise stress lab 
for the 
evaluation of chest discomfort as inpatient after serial 
negative 
cardiac biomarkers. She arrived to the lab with her chronic 
upper back 
discomfort. She exercised 10.5 minutes of a Gervino protocol 
___ METs, 
average functional capacity for age/gender) and the test was 
terminated 
due to fatigue. No progressive arm, neck, back or chest 
discomfort was 
reported by the patient throughout the study. There were no STTW 
changes 
with exercise or in recovery. The rhythm was sinus with frequent 

isolated vpbs at rest and in recovery. The ventricular ectopy 
resolved 
at HR > 85 bpm during exercise. Appropriate heart rate and blood 

pressure response to exercise and recovery. 
  
IMPRESSION: Average functional exercise capacity. No anginal 
type 
symptoms or ischemic EKG changes to achieved workload. Normal 
hemodynamic response to exercise. Echo report sent separately. 

___ ECHO:
The patient exercised for 10 minutes and 30 seconds according to 
a Gervino treadmill protocol ___ METS) reaching a peak heart 
rate of 122 bpm and a peak blood pressure of 170/68 mmHg. The 
test was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age and gender. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). There is normal resting blood 
pressure with normal blood pressure and heart rate responses to 
stress. 

 Resting images were acquired at a heart rate of 64 bpm and a 
blood pressure of 130/90 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Biplane 
LVEF = 69 %. Right ventricular free wall motion is normal. There 
is no pericardial effusion. Doppler demonstrated no aortic 
stenosis, aortic regurgitation or significant mitral 
regurgitation or resting LVOT gradient. .

 Echo images were acquired within 76 seconds after peak stress 
at heart rates of 105 - 87 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion. 

 IMPRESSION: Average functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Normal hemodynamic response to 
exercise. 

 
Brief Hospital Course:
Ms. ___ is a ___ ___ w/ ___ Afib on amiodarone, 
HTN, and HLD, who presents with generalized weakness, 
palpitations, and chest pressure with exertion, concerning for 
angina. 

#CORONARIES: Unknown 
#PUMP: EF 65%
#RHYTHM: NSR with bigeminy 

ACTIVE ISSUES: 
==============
# Chest pressure
# Palpitations
# Frequent PVCs
Patient presented with chest pressure that occurred at rest. Her 
ECG was unremarkable and troponins were negative. On interview, 
she describes her chest pain as localized to her rib cage and 
non-exertional, which is less concerning for anginal pain. 
Differential includes anxiety vs. arrhythmia. Review of her 
telemetry revealed numerous PVCs with no evidence of higher 
degree block, which likely explains her palpitations. She has an
unclear history of HFpEF and is on several heart failure 
medications - it is unclear whether or not she needs these 
mediations. Her last TTE in ___ showed an EF 65% with 
preserved systolic function. She had a stress echo which was 
negative for ischemic changes. 

# Weakness
# Episodic hypotension
# Dizziness
Patient presented with weakness, dizziness, and reported 
hypotension that began the night before presentation. 
Orthostatics on admission were slightly positive and patient 
received 500cc IVF. Notably, she is on several anti-hypertensive 
medications, including clonidine, carvedilol, amlodipine, and 
lisinopril. Her dizziness/weakness is likely in the setting of
hypotension secondary to overmedication. Her symptoms improved 
since holding her home carvedilol, clonidine, and torsemide. She 
also recevied a small amount of IVF. 

# ?HFpEF ___ AV Fistula
Patient had a TTE in ___ that showed EF 65%. She takes 
torsemide 5mg PO daily at home, reportedly for a fistula. On 
exam, patient appeared euvolemic, and CXR on admission did not 
show evidence of pulmonary edema. A Pro-BNP was checked and was 
not elevated. She had a stress echo, as above, and was treated 
with her home amlodipine and lisinopril during her admission. 
Her home torsemide and carevedilol were held, as there were no 
clear indications for these medications and patient's blood 
pressure was low-normal. 

CHRONIC/STABLE ISSUES: 
======================
# Atrial fibrillation
ECG shows NSR with frequent PVCs. CHADS2-VASc 1. Continued home 
amiodorone 200mg PO daily
and dabigatran 150mg PO BID

# HTN
Continued home amlodipine 5mg PO daily and lisinopril 15mg PO 
daily. Held home carvedilol and clonidine as blood pressure was 
low-normal during admission and patient was having dizziness, 
likely explained by overmedication (see above). 

# HLD
Last cholesterol 157 on ___. Continued home atorvastatin 
20mg PO daily

# Positive quantiferon gold
Patient recently had positive quant gold on ___. Per her OP 
provider, she was not having active symptoms and is asymptomatic 
upon presentation. Likely represents latent TB rather than 
active infection.

TRANSITIONAL ISSUES:
====================
[ ] Discontinued medications: Clonidine 0.1mg PO daily, 
Carvedilol 12.5mg PO BID, Torsemide 5mg PO daily
[ ] Unclear why patient was needs so many heart failure 
medications - there seems to be no indication for these 
medicines. Recommend follow up with cardiology for further 
clarification.
[ ] Patient's blood pressure was low-normal during admission. 
Please repeat in clinic and titrate anti-hypertensive 
medications as appropriate
[ ] Please follow-up final ECHO result. Stress did not show 
ischemic changes on ___.

#CODE STATUS: Full, presumed
#CONTACT: ___ (son) 
 Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Carvedilol 12.5 mg PO BID 
5. CloNIDine 0.1 mg PO QPM 
6. Dabigatran Etexilate 150 mg PO BID 
7. Lisinopril 15 mg PO DAILY 
8. Torsemide 5 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Dabigatran Etexilate 150 mg PO BID  
5.  Lisinopril 15 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Orthostatic hypotension
- PVCs
- Hypertension

Secondary diagnosis:
- Hyperlipidemia
- Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

Why were you admitted to the hospital?
- You were admitted to the hospital because you were feeling 
weak and lightheaded. You were also having some chest pressure

What was done for you in the hospital?
- You had an ECG of your heart and labs drawn, which were 
reassuring. 
- You were given some fluids through your vein because your 
blood pressure was low.
- You had a stress test done to see how your heart was pumping 
under stress. It was negative for any ongoing ischemia to your 
heart.
- Your blood pressure was low, so we stopped several of your 
home blood pressure medicines, which improved your dizziness. 

What should you do when you go home?
- You should continue taking your medications as 
prescribed.***PLEASE STOP TAKING CLONIDINE, CARVEDILOL, AND 
TORSEMIDE.*** 
- You should follow up with your cardiologist and primary care 
doctor.

It was a pleasure taking care of you.

Sincerely,
Your ___ Team

 
Followup Instructions:
___